US06008229
To a stirred solution of 2-amino-3-benzyloxy-N-methylaniline (318.5 mg) in acetic acid (3.2 ml) was added tetramethyl orthocarbonate (223.0 μl) at ambient temperature, and the reaction mixture was stirred for 4 hours. The reaction mixture was concentrated in vacuo, and to the residue were added ethyl acetate and a saturated sodium bicarbonate solution. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The residue was triturated with n-hexane-diisopropyl ether to give 4-benzyloxy-2-methoxy-1-methyl-1H-benzimidazole (273.3 mg) as a pale brown solid.

reactant | 2-amino-3-benzyloxy-N-methylaniline | 318.5 mg | NC1=C(NC)C=CC=C1OCC1=CC=CC=C1 | C14H16N2O
reactant | tetramethyl orthocarbonate | 223.0 μl | C(OC)(OC)(OC)OC | C5H12O4
solvent | acetic acid | 3.2 ml | C(C)(=O)O | C2H4O2
product | 4-benzyloxy-2-methoxy-1-methyl-1H-benzimidazole | 273.3 mg | C(C1=CC=CC=C1)OC1=CC=CC=2N(C(=NC21)OC)C | C16H16N2O2
